.include divider23_params.cir
.include divider23.cir

.lib _PDK_ROOT/libs.tech/combined/sky130.lib.spice _CORNER

Xdiv VSS VDD op on ckp ckn mcp mcn divider23
 +and_win1={and_win1} and_win2={and_win2} and_nfin1={and_nfin1} and_nfin2={and_nfin2} and_vsw={and_vsw} and_iss={and_iss}
 +dff1_latch1_winp={dff1_latch1_winp} dff1_latch1_wclk={dff1_latch1_wclk} dff1_latch1_wlat={dff1_latch1_wlat} dff1_latch1_nfinp={dff1_latch1_nfinp} dff1_latch1_nfclk={dff1_latch1_nfclk} dff1_latch1_nflat={dff1_latch1_nflat} dff1_latch1_vsw={dff1_latch1_vsw} dff1_latch1_iss={dff1_latch1_iss} dff1_latch2_winp={dff1_latch2_winp} dff1_latch2_wclk={dff1_latch2_wclk} dff1_latch2_wlat={dff1_latch2_wlat} dff1_latch2_nfinp={dff1_latch2_nfinp} dff1_latch2_nfclk={dff1_latch2_nfclk} dff1_latch2_nflat={dff1_latch2_nflat} dff1_latch2_vsw={dff1_latch2_vsw} dff1_latch2_iss={dff1_latch2_iss}
 +or_win1={or_win1} or_win2={or_win2} or_nfin1={or_nfin1} or_nfin2={or_nfin2} or_vsw={or_vsw} or_iss={or_iss}
 +dff2_latch1_winp={dff2_latch1_winp} dff2_latch1_wclk={dff2_latch1_wclk} dff2_latch1_wlat={dff2_latch1_wlat} dff2_latch1_nfinp={dff2_latch1_nfinp} dff2_latch1_nfclk={dff2_latch1_nfclk} dff2_latch1_nflat={dff2_latch1_nflat} dff2_latch1_vsw={dff2_latch1_vsw} dff2_latch1_iss={dff2_latch1_iss} dff2_latch2_winp={dff2_latch2_winp} dff2_latch2_wclk={dff2_latch2_wclk} dff2_latch2_wlat={dff2_latch2_wlat} dff2_latch2_nfinp={dff2_latch2_nfinp} dff2_latch2_nfclk={dff2_latch2_nfclk} dff2_latch2_nflat={dff2_latch2_nflat} dff2_latch2_vsw={dff2_latch2_vsw} dff2_latch2_iss={dff2_latch2_iss}
 +sf_w={sf_w} sf_nf={sf_nf} sf_iss={sf_iss}
 +cwire={cwire} vdd={_VDD}

C1 op VSS {cload} m=1
C2 on VSS {cload} m=1

Xbalun1 mcdiff mccm mcp mcn balun
Xbalun2 clkdiff clkcm ckp ckn balun

vvdd VDD 0 _VDD
vvss VSS 0 0
vmc mcdiff 0 dc _VSW_MC
vclk clkdiff 0 dc {-vsw_clk} PULSE({-vsw_clk} {vsw_clk} _TRISE _TRISE _TRISE {_PERIOD/2-_TRISE} _PERIOD)
V1 mccm VSS {_VDD-vsw_mc/2}
V2 clkcm 0 {_VDD-cm_clk-vsw_clk/2}

.control

save all

set filetype = ascii
set hcopydevtype = svg
set format = cross

set appendwrite

alter vmc = -_VSW_MC

tran _TSTEP _TSTOP
wrdata results2.txt v(mcp,mcn) v(ckp,ckn) v(op,on)
remzerovec

alter vmc = _VSW_MC

tran _TSTEP _TSTOP
wrdata results3.txt v(mcp,mcn) v(ckp,ckn) v(op,on)

.endc

.subckt balun d c p n
E1 net4 c d 0 0.5
V1 p net4 0
F1 d 0 V1 -0.5
R1 d 0 1T m=1
E2 net2 n d 0 0.5
V2 c net3 0
F2 d 0 V2 -0.5
R2 net3 net2 1u m=1
.ends

.end
